US06162832
4-(3,4-Difluorobenzyloxy)phenol
To a solution of 4-(3,4-difluorobenzyloxy)phenyl acetate (6.77 g, 24.4 mmol) in methanol (100 ml) was added potassium carbonate (3.36 g, 24.3 mmol), followed by reflux for 3 hours. After allowing to stand overnight, the reaction solution was poured into water, made acidic with hydrochloric acid and extracted with chloroform. The solvent was evaporated under reduced pressure to give the title compound (5.68 g), which was used for the following reaction without purification.

reactant | 4-(3,4-difluorobenzyloxy)phenyl acetate | 24.4 mmol, 6.77 g | C(C)(=O)OC1=CC=C(C=C1)OCC1=CC(=C(C=C1)F)F | C15H12F2O3
reactant | potassium carbonate | 24.3 mmol, 3.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 4-(3,4-Difluorobenzyloxy)phenol | 5.68 g | FC=1C=C(COC2=CC=C(C=C2)O)C=CC1F | C13H10F2O2
